US04880799
B. 1,2,3,4-tetrahydro-2-oxo-4,1-benzoxazepine
1 g o-amino-benzyloxy acetic acid and 1.1 g dicyclohexyl carbodiimide were stirred in 15 ml refluxing methanol for 8 hours. The mixture was evaporated, and the residue was stirred with 50 ml acetone and filtered, whereafter the filtrate was evaporated to give the title compound. M.p. 160°-165° C.

reactant | o-amino-benzyloxy acetic acid | 1 g | NC1=C(COCC(=O)O)C=CC=C1 | C9H11NO3
reactant | dicyclohexyl carbodiimide | 1.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methanol | CO | CH4O
product | 1,2,3,4-tetrahydro-2-oxo-4,1-benzoxazepine | O=C1NC2=C(COC1)C=CC=C2 | C9H9NO2
